US07816391B2
A solution of 1M sodium hydroxide (24.28 mL, 24.28 mmol) was added to a stirred suspension of N-(2-adamantyl)-1-(4-cyanophenyl)-5-methyl-pyrazole-4-carboxamide (Intermediate#66) (1.25 g, 3.47 mmol) in dioxane (25 mL). The resulting suspension was stirred at 100° C. for 7 hours. The reaction mixture was concentrated, diluted with water (40 mL) and filtered through Celite. The filtrates were acidified with 1M citric acid. The precipitate was recovered by filtration, washed with water (3×20 mL) and dried under vacuum at 50° C. The crude product was purified by preparative HPLC (Phenomenex Gemini C18 110A (axia) column, 5μ silica, 30 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% formic acid) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 4-[4-(2-adamantylcarbamoyl)-5-methyl-pyrazol-1-yl]benzoic acid (550 mg, 42%) as a pale yellow powder.

reactant | sodium hydroxide | 24.28 mmol, 1M, 24.28 mL | [OH-].[Na+]
reactant | N-(2-adamantyl)-1-(4-cyanophenyl)-5-methyl-pyrazole-4-carboxamide | 3.47 mmol, 1.25 g | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C)C2=CC=C(C=C2)C#N | C22H24N4O
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(2-adamantylcarbamoyl)-5-methyl-pyrazol-1-yl]benzoic acid | 550 mg, 42% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C)C2=CC=C(C(=O)O)C=C2 | C22H25N3O3
